US05352678
Trans phenylmethyl 4-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-1-piperazine carboxylate
4-(1,3-Benzodioxol-5-yl)cyclohexanone and carbobenzyloxy piperazine were reacted as described in example 9 to give the product (31%, mp: 107°-108° C.). Calc'd for C25H30N2O4 : C, 71.07%; H, 7.16%; N, 6.64%. Found: C, 70.95%; H, 7.16%; N, 6.36%.

reactant | 4-(1,3-Benzodioxol-5-yl)cyclohexanone | O1COC2=C1C=CC(=C2)C2CCC(CC2)=O | C13H14O3
reactant | carbobenzyloxy piperazine | C(=O)(OCC1=CC=CC=C1)N1CCNCC1 | C12H16N2O2
product | Trans phenylmethyl 4-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-1-piperazine carboxylate | 31% | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C25H30N2O4
